US04878942
2.82 g of 4-hydroxy-N-(2,3-dichlorophenyl)-benzamide and 1.67 g of bromoacetic acid were dissolved in 10 ml of dioxane. To this solution, a mixture of 0.97 g of sodium hydroxide and 2 ml of water was dropwise added over a period of 10 minutes at a temperature of 20° C. under stirring. After the dropwise addition, the reaction solution was stirred at a temperature of 80° C. for 2 hours. After completion of the reaction, the reaction solution was poured into 50 ml of water, and acidified with hydrochloric acid. Then, the crude product obtained by collecting precipitates by filtration, was recrystallized from toluene/methanol to obtain 2.5 g of desired 4-(2,3-dichlorophenyl-carbamoyl)-phenoxyacetic acid. Yield: 70.6% Melting point: 198°-199.5° C.

reactant | 4-hydroxy-N-(2,3-dichlorophenyl)-benzamide | 2.82 g | OC1=CC=C(C(=O)NC2=C(C(=CC=C2)Cl)Cl)C=C1 | C13H9Cl2NO2
reactant | bromoacetic acid | 1.67 g | BrCC(=O)O | C2H3BrO2
reactant | sodium hydroxide | 0.97 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
solvent | water | 2 ml | O | H2O
product | 4-(2,3-dichlorophenyl-carbamoyl)-phenoxyacetic acid | 2.5 g, Yield: 70.6% | ClC1=C(C=CC=C1Cl)NC(=O)C1=CC=C(OCC(=O)O)C=C1 | C15H11Cl2NO4
